US09334286B2
Preparation 153: 3-Bromo-7-methyl-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyrazine
A suspension of 3-bromo-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyrazine (Preparation 154, 29 mg, 0.143 mmol), K2CO3 (23.7 mg, 0.171 mmol), dimethyl sulfate (14 uL, 0.143 mmol in THF (3 mL) was stirred at 80° C. under microwave irradiation for 60 minutes. The reaction mixture was filtered and purified by elution through an SCX-2 column using 2M NH3/MeOH to give the title compound as yellow oil (16.5 mg, 53%).

reactant | 3-bromo-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyrazine | 0.143 mmol, 29 mg | BrC1=NN=C2N1CCNC2 | C5H7BrN4
reactant | K2CO3 | 0.171 mmol, 23.7 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 3-Bromo-7-methyl-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyrazine | 16.5 mg, 53% | BrC1=NN=C2N1CCN(C2)C | C6H9BrN4
